US05017235
The reaction of pyrazine and propionaldehyde is conducted on a 10 mmole scale using the Caronna et al procedure described in J. Chem. Soc., Perkin Trans. 2, 14, 2035-8 (1972). A 50% crude yield of 1,1'-(2,5-pyrazinediyl)bis-1-propanone is obtained.

reactant | pyrazine | N1=CC=NC=C1 | C4H4N2
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 1,1'-(2,5-pyrazinediyl)bis-1-propanone | N1=C(C=NC(=C1)C(CC)=O)C(CC)=O | C10H12N2O2
